US07163947B2
A solution of N-(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)isobutylideneamine (1.15 g, 3.88 mmol) in 15 mL of methanol was treated with NaBH4 (0.44 g, 11.6 mmol) and stirred under an atmosphere of nitrogen. After 18 h, the reaction was concentrated under reduced pressure. The residue was partitioned between CHCl3 and water, and the phases were separated. The organic portion was washed with water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure to yield an orange oil. Chromatography (SiO2, 97:3 CHCl3:MeOH), gave N-(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)isobutylamine (0.69 g) as clear, colorless crystals.

reactant | N-(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)isobutylideneamine | 3.88 mmol, 1.15 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)N=CC(C)C | C17H20N4O
reactant | NaBH4 | 11.6 mmol, 0.44 g | [BH4-].[Na+]
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 15 mL | CO | CH4O
product | N-(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)isobutylamine | 0.69 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)NCC(C)C | C17H22N4O
